US03959277
In the same way, reaction of 4-biphenylcarbonyl chloride with tetraaminopyrazine in excess pyridine will give tetrakis(4-biphenylcarboxamido)pyrazine. Heating this compound at or near its Tp will give 2,6-bis(4-biphenylyl)-1H,5H-diimidazo[4,5-b:4',5'-e]pyrazine.

reactant | 4-biphenylcarbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | tetraaminopyrazine | NC1=C(N=C(C(=N1)N)N)N | C4H8N6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tetrakis(4-biphenylcarboxamido)pyrazine | C1(=CC=C(C=C1)C(=O)NC1=C(N=C(C(=N1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C56H40N6O4
